US08211897B2
To a solution of (S)-1-((2S,4R)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)-2-(methoxycarbonyl)pyrrolidin-1-yl)-3,3-dimethyl-1-oxobutan-2-ylcarbamic acid hydrochloride (0.165 mmol) in dichloromethane (3.0 mL) was added triethylamine (0.06 mL, 0.413 mmol) and tert-butylisocyanate (0.02 mL, 0.165 mmol) and the reaction mixture was stirred at room temperature. After 16 hours, the reaction mixture was diluted with dichloromethane and washed with 1N HCl, saturated sodium bicarbonate, and brine. The dichloromethane layer was then evaporated to dryness to give (2S,4R)-methyl-1-((S)-2-(3-tert-butylureido)-3,3-dimethylbutanoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)-pyrrolidine-2-carboxylate.

reactant | (S)-1-((2S,4R)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)-2-(methoxycarbonyl)pyrrolidin-1-yl)-3,3-dimethyl-1-oxobutan-2-ylcarbamic acid hydrochloride | 0.165 mmol | Cl.COC1=CC=C2C(=CC(=NC2=C1)N1N=CC=C1)O[C@@H]1C[C@H](N(C1)C([C@H](C(C)(C)C)NC(O)=O)=O)C(=O)OC
reactant | triethylamine | 0.413 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylisocyanate | 0.165 mmol, 0.02 mL | C(C)(C)(C)N=C=O | C5H9NO
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | (2S,4R)-methyl-1-((S)-2-(3-tert-butylureido)-3,3-dimethylbutanoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)-pyrrolidine-2-carboxylate | COC(=O)[C@H]1N(C[C@@H](C1)OC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1)C([C@H](C(C)(C)C)NC(=O)NC(C)(C)C)=O | C30H40N6O6
